datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.[S:10]=[C:11]1[CH:12]=[CH:13]/[C:14](=[N+:15](\[O-:16])[O-:66])[CH:73]=[CH:72]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([S:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:66])[CH:73]=[CH:72]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2.[CH2:10]=[N+:11]=[N-:12]>>CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH2:10][N+:11]#[N:12])[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12=11,12"
"C1CCC[C:20](=[O:21])CC1.CC[OH:10]>>CC[OH+:10][C:20]1([O-:21])CCCCCC1 10=20;20,21=21"
"COC1=C[C:72]2=[C:71](C=C1)[N:10]=[CH:61][CH:62]=[CH:63]2.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>COC1=C[C:72]2=[C:71](C=C1)[N+:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)=[CH:61][CH:62]=[CH:63]2 10=20;20,21=21"
"C[P+](C)(C)[Mo-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[P+](C)(C)[Mo-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si:72](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F>>CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH2:10][C:11](=[O+:12][Si:72](C)(C)C)[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2 10,11=10,20;12=11,12"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:62]3C4=C(C=CC=C4)[S:72][C:61]3=[N:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[C:61]3[N:62](CC[C@H]2C(C2=CC=CC=C2)C2=CC=CC=C2)C2=C(C=CC=C2)[S:72]3)[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Si](C)(C)[O:64][C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CC(C)(C)[C:22]1=[C:21]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13]([O:64][Si](C)(C)C)=[O+:14]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1.O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>O=[N+]([O-])[C:43]1=[CH:42][C:21](=[N+:22]([O-:23])[O-:33])[CH:20]([N:10]2[CH:11]=[N+:12](C3=CC=CC=C3)[CH:63]=[CH:64]2)[S:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[Ge:11](CC)(CC)[H:10].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC[Ge+:11](CC)CC.N#C[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.[Cl-:10]>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([Cl:10])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.FC(F)(F)[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
"O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21.O[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](O)[CH:64]=[CH:63]3)N2N=N[N:35]=[C:34]21 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1.[C-:10]#[N:61]>>O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([C:10]#[N:61])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10=20;20,21=21,22;22,23=23"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[C:11](C)=[CH2:10]>>COC1=CC=[N+](C[C:21]([CH:20]([CH2:10][C+:11](C)C)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;20,21=21,22;22,23=23"
